US07169780B2
Step 11: N1-[1-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)-1-methylethyl]-N2,N2-dimethylethanediamide (11).
Methyl {[1-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)-1-methylethyl]amino}(oxo)acetate was refluxed in an excess of 2 M solution of dimethylamine in THF for 2 h. Reaction mixture was cooled to room temperature, evaporated and residue was purified by RP HPLC (C18, water/acetonitrile containing 0.1% of trifluoroacetic acid as eluant). Collection and lyophilization of appropriate fractions afforded the title product.

reactant | Methyl {[1-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)-1-methylethyl]amino}(oxo)acetate | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C(C)(C)NC(C(=O)OC)=O)C=C1 | C19H21FN4O6
reactant | dimethylamine | CNC | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | N1-[1-(4-{[(4-fluorobenzyl)amino]carbonyl}-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl)-1-methylethyl]-N2,N2-dimethylethanediamide | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C(C)(C)NC(C(=O)N(C)C)=O)C=C1 | C20H24FN5O5
